US07365095B2
A solution (R)-(9-(2,6-dichlorophenyl)-7-fluoro-2,5-dihydrobenzo[b]oxepin-2-yl)methyl 4-methylbenzene-sulfonate (0.7 g, 1.4 mmol) in ethyl acetate/ethanol (10/10 mL) was added platinum (IV) oxide (0.2 g) and the mixture hydrogenated at 45 psi of hydrogen for 14 hours. The reaction mixture was then filtered through celite and the filtrate concentrated under reduced pressure. Chromatography with 10–30% ethyl acetate in hexanes afforded 0.60 g (85%) of (R)-(9-(2,6-dichlorophenyl)-7-fluoro-2,3,4,5-tetrahydrobenzo[b]oxepin-2-yl)methyl 4-methylbenzene-sulfonate as a colorless oil. [α]D25=+24.81° (c=6.6 mg/0.7 mL MeOH); MS (ES) m/z 512.1 ([M+NH4]+).

reactant | (R)-(9-(2,6-dichlorophenyl)-7-fluoro-2,5-dihydrobenzo[b]oxepin-2-yl)methyl 4-methylbenzene-sulfonate | 1.4 mmol, 0.7 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1C=CCC2=C(O1)C(=CC(=C2)F)C2=C(C=CC=C2Cl)Cl | C24H19Cl2FO4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate ethanol | 10 mL | C(C)(=O)OCC.C(C)O
catalyst | platinum (IV) oxide | 0.2 g | [Pt](=O)=O
product | (R)-(9-(2,6-dichlorophenyl)-7-fluoro-2,3,4,5-tetrahydrobenzo[b]oxepin-2-yl)methyl 4-methylbenzene-sulfonate | 0.60 g, 85% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1CCCC2=C(O1)C(=CC(=C2)F)C2=C(C=CC=C2Cl)Cl | C24H21Cl2FO4S
